US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (1.50 g) as starting compound and 6-bromo-1-(1-benzyl-1 H-indol-3-yl)-1-hexanone were reacted and treated in the same manner as in Example 199 to give 0.43 g of 4-amino-5-chloro-2-methoxy-N-((1-(6-(1-benzyl-1 H-indol-3-yl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 1.50 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 6-bromo-1-(1-benzyl-1 H-indol-3-yl)-1-hexanone | BrCCCCCC(=O)C1=CN(C2=CC=CC=C12)CC1=CC=CC=C1 | C21H22BrNO
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(1-benzyl-1 H-indol-3-yl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide | 0.43 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=CN(C3=CC=CC=C23)CC2=CC=CC=C2)C=C1Cl)OC | C35H41ClN4O3
